Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I forgot my medication in ___ and I haven't slept in 4 
days."

 
Major Surgical or Invasive Procedure:
Thyroid biopsy/FNA
 
History of Present Illness:
___ is a ___ year old ___ female on vacation in the ___ with self-reported past
psychiatric history of auditory hallucinations, suicide 
attempts,
and multiple past psychiatric hospitalizations who presents to
the ___ ED with her ___ due to four days of
insomnia after leaving her midazolam in ___. Psychiatry
was consulted for diagnostic clarification and treatment
recommendation.

On interview via translator phone, patient states that forgot 
her
midazolam, which she takes very night, and so has not slept for
any time in the past four days. States that she also has been
hearing voices telling her that they are going to kill her, and
that they are following her. States that she knows it is a 
voice,
but that it scares her. States that she heard these voices for
the past ___ years and that she went to a psychiatric hospital
in ___ for them, which was when they prescribed her the
midazolam. States that when she takes her medication and sleeps,
she does not have hear the voices or feel afraid.  

Patient endorses depressed mood, no sleep, decreased appetite,
and anhedonia. She endorses hopefulness that she will be able to
sleep and feel better. Denies any active suicidal ideation or
plan. She denies the sentiment that she would like to fall 
asleep
and not wake up, but does state that "I feel like I shouldn't be
alive. Denies homicidal ideation. Denies visual hallucinations.
Denies any current or past symptoms of mania.

Collateral from ___ states that her mother-in-law came to the ___ for vacation
about four days ago. States that she has not slept at all since,
and that she is up all night walking around the house. States
that it is difficult to know her baseline, because her husband
had not seen his mom in ___ years. States that she appears 
scared,
and states that she feels like someone is following her. Says 
she
is also paranoid about feeling like she is being blamed for
things that have nothing to do with her. States that she is
afraid to sleep at night because then she will be left at home,
and she knows that she has tried to kill herself in the past.
States that less than three months ago the patient tried to hang
herself with a rope and was stopped by her parents. States that
she was hospitalized for one week following that episode, and
that she believes she has been in and out of the hospital 
several
times recently. States that she does not have a return flight to
___, and that they will do what they have to do in terms
of making sure she is safe.

 
Past Medical History:
Thyroid nodule
 
Social History:
___
Family History:
Denies any relevant family history
 
Physical Exam:
General- Black woman appearing younger than stated age
HEENT- normocephalic atraumatic
Neck and Back- palpable nodule on L anterior side of neck,
roughly 4cm in radius extending 3cm from surrounding surface of
neck
Lungs- CTA b/l
CV- Tachycardiac with regular rhythm and S1S2
Abdomen: Soft NT ND +BS
Extremities- No edema
Neuro- moves all 4 extremities spontaneously against gravity;
tremor (low amplitude, moderate frequency of ___, bilateral,
most prominent in hands but also appreciable in thighs)

Neurological:  
 *station and gait: within normal limits
 *tone and strength: within normal limits; moves all 4
extremities spontaneously against gravity
 
Pertinent Results:
___ 01:55AM   GLUCOSE-175* UREA N-5* CREAT-0.6 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-27 ANION GAP-16
___ 01:55AM   estGFR-Using this
___ 01:55AM   TSH-0.19*
___ 01:55AM   FREE T4-1.4
___ 01:55AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:55AM URINE  HOURS-RANDOM
___ 01:55AM URINE  HOURS-RANDOM
___ 01:55AM URINE  GR HOLD-HOLD
___ 01:55AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:55AM   WBC-7.7 RBC-5.14 HGB-13.8 HCT-41.2 MCV-80* 
MCH-26.8 MCHC-33.5 RDW-12.9 RDWSD-36.7
___ 01:55AM   NEUTS-74.8* LYMPHS-16.4* MONOS-7.7 EOS-0.3* 
BASOS-0.7 IM ___ AbsNeut-5.76 AbsLymp-1.26 AbsMono-0.59 
AbsEos-0.02* AbsBaso-0.05
___ 01:55AM   PLT COUNT-216
___ 01:55AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:55AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
SAFETY:  The pt. was placed initially on 5 minute checks 
switched to 15 minute checks on ___ and remained here on that 
level of observation throughout. She was unit-restricted. There 
were no acute safety issues during this hospitalization.

LEGAL: ___
PSYCHIATRIC:

#)Auditory Hallucinations
Patient denied AVH at the time of the interview, but stated that 
she had heard voices as recently as 3 days prior to admission; 
she stated that the first time she ever heard disembodied voices 
were ~ ___ years ago. The patient then stated current troubles 
related to an event she witnessed in ___ ___ years ago after 
seeing a relative's friend assaulted. She believes assaulters 
have come to believe that she reported this event to the 
authorities, and have been pursuing her ever since. Patient 
appeared rigid in posture with poor eye contact on initial 
examination. She was also anxious and appeared to require more 
time to settle into the unit with the cultural/language barriers 
present. She responded well to zyprexa 5mg PO QHS with 
up-titration to 25mg, with mood/affect appearing brighter and 
increasing social interactions seen in facial movements 
(smiling) and improved eye contact. Pt reports  diminished 
auditory hallucination. 

#)Insomnia
Patient stated that she has been unable to sleep in ~4 days 
since arriving to the ___, and that she was previously taking 
medication to sleep, which she has been without (likely 
benzodiazepine). She responded well to standing zyprexa for 
insomnia, with PRN hydroxyzine. 

GENERAL MEDICAL CONDITIONS:
#)Thyroid Nodule: Noted by patient to have been steadily growing 
over ___ years. Medicine was consulted. Ms. ___ had some 
history and exam findings consistent with hyperthyroidism 
including anxiety, emotional lability, weight loss, tremor, 
tachycardia, amenorrhea, and elevated blood pressures. She did 
not have heat intolerance, increased perspiration, 
hyperdefecation, urinary frequency, new onset atrial 
fibrillation, myopathy/proximal muscle weakness, hyperreflexia, 
or skin/hair/nail changes. Many of her symptoms more likely due 
to menopause for her amenorrhea given age and history of 
irregular periods prior to cessation of menstruation as well as 
benzo withdrawal and/or underlying psychiatric disease for 
tachycardia/hypertension per medicine consult. TSH also found to 
be slightly low at 0.19 although T3 and T4 within normal limits. 
Thyroid ultrasound ___ shows Large 3.9cm heterogeneous 
spongiform vascular nodule noted on left lobe in lower pole with 
recommended biopsy by size criteria. A small colloid cyst and 
0.6 x 0.6 x 0.8 cm spongy nodule were noted in the upper pole of 
the right lobe. Thyroid biopsy/FNA was done on ___. The 
cytology result is consistent with benign thyroid nodule. Pt 
will be followed up with PCP for the result. 

#)Hypertension: 
Atenolol 25mg PO qD started on floor given 
hypertension/tachycardia; monitor with repeat vitals and 
physical exam to examine for resolution of tremor. Medicine 
consult recommended dc atenolol as the patient's tachycardia is 
likely not due to hyperthyroidism: Sinus tachycardia does not 
need to be treated with beta blockers and is likely related to 
other factors such as benzo withdrawal. However, patient 
remained hypertensive with SBP ranging 140-150s and DBP 90-100. 
Patient's home HCTZ 25mg PO daily was restarted on ___, with 
patient normotensive therafter.  

PSYCHOSOCIAL:
#) GROUPS/MILIEU/THERAPY:
___ was seen briefly with a ___ 
interpreter, in order to complete the initial occupational 
therapy interview & evaluation process. She
expressed interest in attending groups & engaging in treatment. 
OT determined pt benefit from inclusion in skilled occupational 
therapy treatment activities &
group sessions while on unit in order to assist her in the 
development & increased utilization of positive coping, symptom 
management, insight, structure, organization,
concentration, leisure, socialization, ADL, IADL, & community 
functioning skills. She was also seen to likely greatly benefit 
from consistent follow-up with stable outpatient psychiatric 
treatment providers, as well as regular attendance at 
community-based support groups. 

Patient required a ___ interpreter for 
discussion-based groups. Occupational therapy addressed symptom 
management, insight, structure, organization, concentration, 
leisure, socialization, & positive coping skill development, in 
groups & 1:1 treatment sessions as needed). She was recommended 
and encouraged to participate in the following treatment groups, 
as appropriate:
--Psycho-educational & Process-Oriented Groups, in order to:
improve ___ insight, positive coping skills, & symptom
management techniques. 
--Structured/Therapeutic Activity Groups, in order to: further
improve ___ positive coping skills, as well as to
improve her organization, concentration, leisure skills,
socialization skills, & daily structure.
Frequency/Duration: 6x/week X 1 week. Patient was agreeable with 
above goals and  willing to participate in the rehabilitation 
program.

#) COLLATERAL CONTACTS:
___: ___
___ (son) 
Updated the family members about ___ hospital course and 
treatment plan.

#) FAMILY INVOLVEMENT:
Patient's son, ___, and ___, visited 
patient on ___ for updates from team as well as collateral and 
planning. Team requested any medical records specifically 
documenting previous medications. ___ visited daily for 
updates and planning, particularly regarding patient's thyroid 
nodule workup planning with team

#) INTERVENTIONS:
Pharmacotherapy - Zyprexa 25mg QHS

INFORMED CONSENT:
Zyprexa

Team discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- Chronic medical and mental illness
- Previous suicidal gestures/attempts

#) Modifiable Risk Factors:
- Lack of outpatient treater-we will set up outpatient follow up 
with ___
- Language/cultural barriers to care-we used interpreter for the 
daily interview
- Medication compliance/adherence-we conducted psychopharm 
education with the patient, informed her with risk and benefit 
of the medication

#) Protective Factors:
- Family support 
- Active help seeking
- Newly established outpatient treater

PROGNOSIS:
Guarded - Mrs. ___ is a ___ year old ___ woman with 
palpable thyroid nodule and unclear psychiatric history 
significant for past suicide attempts
and psychiatric hospitalizations, who presented with 4 days of 
insomnia, paranoia, and reported recent AH, concerning for 
symptoms of psychotic disorder on admission. Patient 
simultaneously exhibited concerning signs of possible 
hyperthyroidism; hypertension, tachycardia, and tremulousness, 
and has a palpable L sided thyroid nodule evaluated by medicine 
consult team. With TSH being low and T3, Free T3 and T4 normal, 
medicine team stated symptoms unlikely due to hyperthyroidism 
and more likely due to benzodiazepine withdrawal. However, it 
remains unclear when was the last time she has taken 
benzodiazepines, the amount, and the duration which she was on 
them for. As her psychiatric issues improved with zyprexa, the 
team in accordance with medicine consultants highly recommended 
further evaluation of patient's thyroid nodule as the diagnosis 
and therapy will likely play a role in her mental illness. With 
adequate medical treatment, her prognosis is fair in addition to 
good social support, consistent psychiatric follow-up, and 
medication compliance that may or may not be limited by 
psychosocial/cultural/language barriers. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. midazolam 2g  oral QHS 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. OLANZapine 25 mg PO QHS 
RX *olanzapine 5 mg 5 tablet(s) by mouth at bedtime Disp #*70 
Tablet Refills:*0
2. midazolam 2g  oral QHS 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
Stable. 

Mental Status:
*Appearance: ___ woman sitting upright in chair, calm
and cooperative, appearing younger than stated age, fair
grooming/hygiene
 Behavior: cooperative with interview, however appears somewhat
rigid in posture, sitting upright and staring off to side with
minimal eye contact with providers or interpreter. Unclear if
responding to internal stimuli. 
 *Mood and Affect: 'I feel normal'; affect is flat with some
minor element of nervousness, paranoia(?)
 *Thought process / *associations:  linear, goal-directed
 *Thought Content: denies SI, denies HI, denies auditory
hallucinations at this time but endorses them few days ago, 
 *Judgment and Insight:  limited/limited

Ambulatory status: Ambulates without assistance

 
Discharge Instructions:
You were hospitalized at ___ for worsening psychosis due to 
missing your home medications.  We adjusted your medications, 
and you are now ready for discharge and continued treatment in 
partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___